US04683340
Preparation of 5,5'-dihydroxy-2,2'-diiodobiphenyl (IV)
A flask containing 5,5'-dimethoxy-2,2'-diiodobiphenyl (10.0 g, 21 mmol) was cooled to -76° C. in dry ice/acetone. A 1.0M solution of boron tribromide in methylene chloride (64 ml, 64 mmol) was added via syringe to the cold substrate. The ice bath was removed and the reaction allowed to reach room temperature. After 18 hours, the solution was added slowly to 1 L of water. The aqueous mixture was stirred for 2 hours, and the white solid which formed was filtered, washed with water, and dried to give I, which melted at 181°-182° C., in 85% yield.

reactant | 5,5'-dimethoxy-2,2'-diiodobiphenyl | 21 mmol, 10.0 g | COC=1C=CC(=C(C1)C1=C(C=CC(=C1)OC)I)I | C14H12I2O2
reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | methylene chloride | 64 mmol, 64 ml | C(Cl)Cl | CH2Cl2
solvent | dry ice acetone | C(=O)=O.CC(=O)C
product | 5,5'-dihydroxy-2,2'-diiodobiphenyl | 85% yield | OC=1C=CC(=C(C1)C1=C(C=CC(=C1)O)I)I | C12H8I2O2
